US06476026B1
A solution of tert-butyl 4-thiocarbamoylpiperazine-1-carboxylate (650 mg, 2.65 mmol) and 1,3-dichloroacetone (672 mg, 5.3 mmol) in 1,2-dichloroethane was treated with sodium bicarbonate (22 mg, 2.65 mmol). The reaction mixture was stirred at 70° C. for 18 hours and then diluted with chloroform. The dilution was washed with water and brine, dried over sodium sulfate and concentrated. Product was purified from the residue on a silica gel column, using ethyl acetate/hexanes (3/7) as eluent, to provide tert-butyl 4-(4-chloromethylthiazol-2-yl)piperazine-1-carboxylate (830 mg, 100% yield). HNMR (dmso-d6): 6.92 (1H, s), 4.57 (2H, s), 3.40 (8H, m), 1.42 (9H, s).

reactant | tert-butyl 4-thiocarbamoylpiperazine-1-carboxylate | 2.65 mmol, 650 mg | C(N)(=S)N1CCN(CC1)C(=O)OC(C)(C)C | C10H19N3O2S
reactant | 1,3-dichloroacetone | 5.3 mmol, 672 mg | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium bicarbonate | 2.65 mmol, 22 mg | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-(4-chloromethylthiazol-2-yl)piperazine-1-carboxylate | 830 mg, 100% yield | ClCC=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H20ClN3O2S
